US06852859B2
The process of the present invention comprises the reaction between chromouim(VI) oxide, hydrofluoric acid and pyridine to obtain pyridinium fluorochromate VI (PFC) in quantitative yields and with approximately with 100% of atom economy. The basic mechanism of the reaction comprises the reaction of chromium(VI) oxide with preferably 48% hydrofluoric acid to yield a fluorotrioxochromate(VI) complex. The fluorotrioxochromate(VI) complex is preferably dissolved using minimum amount of water to avoid any loss due to solubility of the product. In the alternate, the fluorotrioxochromate(VI) complex interacts directly with pyridine preferably at ice-cold conditions to obtain pyridinium fluorochromate, PFC. 40% hydrofluoric acid can also be used instead of 48% HF. no excess of hydrofluoric acid is used. Use of excess pyridine is avoided.

reactant | chromium(VI) oxide | [O-2].[Cr+6].[O-2].[O-2]
reactant | hydrofluoric acid | F | FH
reactant | water | O | H2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | pyridinium fluorochromate | [Cr](=O)(=O)([O-])F.[NH+]1=CC=CC=C1 | InChI=1S/C5H5N.Cr.FH.3O/c1-2-4-6-5-3-1;;;;;/h1-5H;;1H;;;/q;+1;;;;-1
